US04216218
A solution of 3.7 g of the free base of cis-1-methyl-4-(4-nitrophenoxy)-3-phenylpiperidine, of Example 7, in 100 ml of absolute ethanol is hydrogenated over 0.37 g of 10% Pd on carbon catalyst at 45 psi of hydrogen and room temperature. Uptake stops after 48 hours. The catalyst is filtered off and the filtrate is concentrated in vacuo to a gum. This material is chromatographed on silica gel using acetone and then 25% methanol/acetone as solvent. A purified free base is obtained and a portion of this material is dissolved in ether and is then added dropwise to a solution of dry HCl in ether. The resulting precipitate is filtered, washed with ether, and is then immediately suspended in boiling ether. Absolute ethanol is added until the mixture grows clear. Scratching of the cold solution causes crystallization to occur. The recrystallized solid is filtered, washed with cold acetone, then ether, and dried to afford a solid (m.p. 226°-227° C. dec.) of cis-4-(4-aminophenoxy)-1-methyl-3-phenylpiperidine dihydrochloride.

reactant | cis-1-methyl-4-(4-nitrophenoxy)-3-phenylpiperidine | CN1C[C@H]([C@H](CC1)OC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C18H20N2O3
reactant | hydrogen | [H][H] | H2
reactant | HCl | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd on carbon | 0.37 g | [Pd] | Pd
solvent | ether | CCOCC | C4H10O
product | cis-4-(4-aminophenoxy)-1-methyl-3-phenylpiperidine dihydrochloride | Cl.Cl.NC1=CC=C(O[C@@H]2[C@@H](CN(CC2)C)C2=CC=CC=C2)C=C1 | InChI=1S/C18H22N2O.2ClH/c1-20-12-11-18(21-16-9-7-15(19)8-10-16)17(13-20)14-5-3-2-4-6-14;;/h2-10,17-18H,11-13,19H2,1H3;2*1H/t17-,18-;;/m0../s1
